US08912227B1
STEP B: (6-ethylpyridin-3-yl)boronic acid
Into a 500-mL 3-necked round-bottom flask (1 atm) purged and maintained with an inert atmosphere of nitrogen, was placed 5-bromo-2-ethylpyridine (3 g, 16.12 mmol, 1.00 equiv) and tetrahydrofuran (200 mL). To the resulting mixture was then added n-BuLi (8.4 mL, 2.5 M) dropwise with stirring at −78° C. The resulting solution was stirred for 30 min at −78° C. in an ethanol/N2 bath. To the resulting mixture was then added triethyl borate (4.7 g, 32.19 mmol, 2.00 equiv) dropwise with stirring at −78° C. The resulting solution was allowed to react, with stirring, overnight at room temperature. The reaction was then quenched by the addition of methanol (20 mL) and water (0.5 mL). The resulting mixture was then concentrated under vacuum. The resulting solution was diluted with methanol (10 mL). The resulting residue (10 mL) was purified by Flash-Prep-HPLC (reversed column) with the following conditions (IntelFlash-1): Column, C18 silica gel; mobile phase, A:water with trifluoroacetic acid (0.05%); B: MeCN=1/100 increasing to A:water with trifluoroacetic acid (0.05%); B: MeCN=20/100 within 25 min; Detector, UV 254 nm to yield of (6-ethylpyridin-3-yl)boronic acid as a white solid.

reactant | 5-bromo-2-ethylpyridine | 16.12 mmol, 3 g, 1.00 equiv | BrC=1C=CC(=NC1)CC | C7H8BrN
reactant | n-BuLi | 2.5 M, 8.4 mL | [Li]CCCC
reactant | triethyl borate | 32.19 mmol, 4.7 g, 2.00 equiv | B(OCC)(OCC)OCC | C6H15BO3
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (6-ethylpyridin-3-yl)boronic acid | C(C)C1=CC=C(C=N1)B(O)O | C7H10BNO2
